US07531532B2
4-(4-Nitrophenoxy)pyridin-2-ylamine (160 mg) was dissolved in tetrahydrofuran (7 ml) under a nitrogen atmosphere, and then triethylamine (0.289 ml) and phenyl chloroformate (0.260 ml) were added thereto while cooling in an ice water bath, followed by warming to room temperature and stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate (200 ml) and a saturated aqueous solution of sodium hydrogencarbonate (50 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (50 ml), water (50 ml) and brine (50 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, and N,N-dimethylformamide (8 ml) was added thereto. And then 4-(pyrrolidin-1-ylmethyl)piperidine dihydrochloride (668 mg) and triethylamine (0.772 ml) were added thereto, followed by stirring for 4 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of ammonium chloride (50 ml). The organic layer was washed with a saturated aqueous solution of ammonium chloride (50 ml), water (50 ml) and brine (50 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:1, then ethyl acetate). Fractions containing a target compound were concentrated to provide a crude product of 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide (295 mg) as pale yellow oil.

reactant | 4-(4-Nitrophenoxy)pyridin-2-ylamine | 160 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)N)C=C1 | C11H9N3O3
reactant | triethylamine | 0.289 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.260 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(pyrrolidin-1-ylmethyl)piperidine dihydrochloride | 668 mg | Cl.Cl.N1(CCCC1)CC1CCNCC1
reactant | triethylamine | 0.772 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 4-(pyrrolidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide | 295 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCCC2)C=C1 | C22H27N5O4
